US06645997B2
Step C: 7-Benzyloxy-2-ethylchromane-2-carboxylic acid
To a 2 L isopropanol solution of ethyl 6-benzyloxy-2-ethylchromane-2-carboxylate (155 g, 0.455 mol) was added 1 L of aqueous 5N sodium hydroxide. This solution was heated to 70° C. overnight. Isopropanol was removed under reduced pressure. The residue was acidified with conc. hydrochloric acid 300 ml and 2N hydrochloric acid to pH 1. The acidic solution was extracted three times with AcOEt. The combined organic layers were dried over anhydrous Na2SO4, filtered, concentrated to give a yellow oil, which crystallized upon standing: 130 g (91%).

reactant | ethyl 6-benzyloxy-2-ethylchromane-2-carboxylate | 0.455 mol, 155 g | C(C1=CC=CC=C1)OC=1C=C2CCC(OC2=CC1)(C(=O)OCC)CC | C21H24O4
reactant | sodium hydroxide | 5N | [OH-].[Na+]
solvent | isopropanol | 2 L | C(C)(C)O | C3H8O
product | 7-Benzyloxy-2-ethylchromane-2-carboxylic acid | C(C1=CC=CC=C1)OC1=CC=C2CCC(OC2=C1)(C(=O)O)CC | C19H20O4
